US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-[2-(methylthio)ethyl]thiopurine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (134 mg, 0.49 mmol) was suspended in dimethylformamide (60 ml). To the suspension were added potassium carbonate (100 mg, 0.72 mmol) and chloromethyl ethyl sulfide (0.08 ml, 0.7 mmol) in order. The mixture was stirred at room temperature for 2 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (3% methanol/chloroform) to give the subject compound (28 mg, yield 16%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.49 mmol, 134 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl ethyl sulfide | 0.7 mmol, 0.08 ml | C(C)SCCl | C3H7ClS
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-8-hydroxy-2-[2-(methylthio)ethyl]thiopurine | 28 mg, yield 16% | NC1=C2N=C(N(C2=NC(=N1)SCCSC)CC1=CC=CC=C1)O | C15H17N5OS2
